US05117057
Preparation of N'-t-butyl-N-(2-thiophenecarbonyl)-N'-benzoylhydrazine
N'-t-butyl-N-(2-thiophenecarbonyl)hydrazine (1 g) was dissolved in 10 ml toluene and treated with 50% aqueous sodium hydroxide (1.0 g) and water (2 ml) followed by benzoylchloride (0.8 g). After stirring for 14 hours at room temperature, the solid product, N'-t-butyl-N-(2-thiophenecarbonyl)-N'-benzoylhydrazine, was removed by filtration and washed with water. m.p. >190° C.

reactant | N'-t-butyl-N-(2-thiophenecarbonyl)hydrazine | 1 g | C(C)(C)(C)NNC(=O)C=1SC=CC1 | C9H14N2OS
reactant | sodium hydroxide | 1.0 g | [OH-].[Na+]
reactant | water | 2 ml | O | H2O
reactant | benzoylchloride | 0.8 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N'-t-butyl-N-(2-thiophenecarbonyl)-N'-benzoylhydrazine | C(C)(C)(C)N(NC(=O)C=1SC=CC1)C(C1=CC=CC=C1)=O | C16H18N2O2S
